US07691882B2
2-(4-(2-Nitro-ethyl)-phenoxymethyl)-pyridine
To a solution of 2-(4-((E)-nitro-vinyl)-phenoxymethyl)-pyridine (33.9 g, 132 mmol) described in Manufacturing Example 203-1-2 in acetic acid (34 mL) and dimethyl sulfoxide (576 mL) was added sodium borohydride (7.99 g, 211 mmol) at room temperature while cooling appropriately. This mixture was stirred for 5 hours at room temperature. This mixture was partitioned into ethyl acetate and water. The organic layer was separated, washed with water, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under a reduced pressure, and the residue was recrystallized from heptane and ethyl acetate to obtain the title compound (6.81 g, 20%).

reactant | 2-(4-((E)-nitro-vinyl)-phenoxymethyl)-pyridine | 132 mmol, 33.9 g | [N+](=O)([O-])/C=C/C1=CC=C(OCC2=NC=CC=C2)C=C1 | C14H12N2O3
reactant | dimethyl sulfoxide | 576 mL | CS(=O)C | C2H6OS
reactant | sodium borohydride | 211 mmol, 7.99 g | [BH4-].[Na+]
solvent | acetic acid | 34 mL | C(C)(=O)O | C2H4O2
product | 2-(4-(2-Nitro-ethyl)-phenoxymethyl)-pyridine | 6.81 g, 20% | [N+](=O)([O-])CCC1=CC=C(OCC2=NC=CC=C2)C=C1 | C14H14N2O3
